US04073795
6-Methylindole
A glass-lined rocking autoclave was charged with a solution of 300 g (1.45 moles) of trans-β-dimethylamino-4-methyl-2-nitrostyrene in 3 l of benzene and 15 g of 5% palladium on carbon. The autoclave was pressurized with 20 psi of hydrogen and rocked for 5 hours. The mixture was filtered through a bed of Celite, which was washed thoroughly with benzene. The filtrate was concentrated to half its volume and washed with 1 l of 0.25N hydrochloric acid, 500 ml of saturated sodium bicarbonate and 500 ml of brine. The aqueous phases were backwashed with 500 ml of benzene and the combined organic phases were dried over sodium sulfate and concentrated. The residual dark brown oil was distilled at vacuo to afford 157.9 g (83%) of product as a light yellow oil. b.p. 80°-85°/0.05 mmHg, which solidified after seeding to a light yellow solid. m.p. 29°-30.5°.

reactant | trans-β-dimethylamino-4-methyl-2-nitrostyrene | 1.45 moles, 300 g | CN(\C=C\C1=C(C=C(C=C1)C)[N+](=O)[O-])C | C11H14N2O2
reactant | hydrogen | [H][H] | H2
solvent | benzene | 3 l | C1=CC=CC=C1 | C6H6
catalyst | palladium on carbon | 15 g | [Pd] | Pd
product | 6-Methylindole | 157.9 g, 83% | CC1=CC=C2C=CNC2=C1 | C9H9N
